US05965555
1-(5-Diethylamino-2-hydroxy-2-methyl-3-pentynyl)-3-methyl-7-propylxanthine was prepared as oily substance in 48% yield using 3-methyl-1-(2-oxopropyl)-7-propylxanthine and N,N-diethyl-2-propynylamine as in Example 6C1). Salt formation with fumaric acid as in Example 7F2) took place in 98% yield. Melting point: 109° C. C23H33N5O7 (MW=491.56 g/mol), base C19H29N5O3 (MW=375.48 g/mol)

reactant | 3-methyl-1-(2-oxopropyl)-7-propylxanthine | CN1C(N(C(C=2N(C=NC12)CCC)=O)CC(C)=O)=O | C12H16N4O3
reactant | N,N-diethyl-2-propynylamine | C(C)N(CC)CC#C | C7H13N
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
product | 1-(5-Diethylamino-2-hydroxy-2-methyl-3-pentynyl)-3-methyl-7-propylxanthine | 48% yield | C(C)N(CC#CC(CN1C(=O)N(C=2N=CN(C2C1=O)CCC)C)(C)O)CC | C19H29N5O3
